US09427475B2
Step B: 2-chloroethyl 2-deoxy-2-fluoro-D-glucopyranoside
To a solution of 2-chloroethyl 3,4,6-tri-O-acetyl-2-deoxy-2-fluoro-D-glucopyranoside (0.85 g, 2.293 mmol) in CH3OH (10 mL) was added NaOCH3 (0.46 mL, 0.230 mmol, 0.5 M in CH3OH). The resulting mixture was stirred at rt for 2 hr. Dowex 50wx2-200 (H) ion exchange resin (pre-washed with CH3OH 3×10 mL) was added to the reaction mixture. After stirring for 15 min, the resin was filtered off and the filtrate was concentrated down to give the title compound. This anomeric mixture was used directly in the next step without further purification. TLC: silica gel, hexane/EtOAc: 1/1, Rf=0.2.

reactant | 2-chloroethyl 3,4,6-tri-O-acetyl-2-deoxy-2-fluoro-D-glucopyranoside | 2.293 mmol, 0.85 g | C(C)(=O)O[C@@H]1[C@H](C(OCCCl)O[C@@H]([C@H]1OC(C)=O)COC(C)=O)F | C14H20ClFO8
reactant | NaOCH3 | 0.230 mmol, 0.5 M, 0.46 mL | O([Na])C
solvent | CH3OH | 10 mL | CO | CH4O
product | 2-chloroethyl 2-deoxy-2-fluoro-D-glucopyranoside | F[C@H]1C(OCCCl)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H14ClFO5
